US05122615
Preparation of Methyl 3-(p-chlorobenzoyl)-2-cyanopropionate
Diisopropylethyl amine (15.5 g, 0.12 mol) is added to dry tetrahydrofuran (60 mL) followed by a solution of methyl cyanoacetate (5.4 g, 0.055 mol) in tetrahydrofuran (10 mL). Finally, a solution of α-bromo-p-chloroacetophenone (11.0 g, 0.05 mol) in tetrahydrofuran (50 mL) is added. After three hours at room temperature, TLC (75/25 hexanes/ethyl acetate) indicates very little starting material. The reaction mixture is then heated at 50° C. for fifteen minutes, cooled and filtered. The filtrate is concentrated in vacuo to obtain an oil which solidifies when treated with dilute hydrochloric acid. The supernatant is decanted and the residue is taken up in ethyl acetate and dried. Work-up leaves a brown waxy solid (8.0 g, 64% crude yield) which on recrystallization from methanol gives the title compound as a white solid (4.3 g, mp 75°-79° C.).

reactant | Diisopropylethyl amine | 0.12 mol, 15.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl cyanoacetate | 0.055 mol, 5.4 g | C(#N)CC(=O)OC | C4H5NO2
reactant | α-bromo-p-chloroacetophenone | 0.05 mol, 11.0 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | Methyl 3-(p-chlorobenzoyl)-2-cyanopropionate | 4.3 g | ClC1=CC=C(C(=O)CC(C(=O)OC)C#N)C=C1 | C12H10ClNO3
